US03932641
To a solution of 22.2 g. of methyl magnesium chloride in ether is added 10.5 g. of 4-pyrimidinecarbonitrile in tetrahydrofuran. The resulting mixture is heated at reflux for 24 hours, then poured onto ice. To the mixture is added 75 ml. of 25% sulfuric acid. The solution is then made basic with 10% aqueous sodium carbonate solution and extracted with ether. The extracts are dried and concentrated to give methyl 4-pyrimidyl ketone.

reactant | methyl magnesium chloride | C[Mg]Cl
reactant | 4-pyrimidinecarbonitrile | N1=CN=C(C=C1)C#N | C5H3N3
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | ether | CCOCC | C4H10O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | methyl 4-pyrimidyl ketone | N1=CN=C(C=C1)C(=O)C | C6H6N2O
